US04006137
2-[2-(1,3-Dimethyl-1H-imidazolium-2-yl)ethenyl]-1-methylpyridinium iodide (1:2)
1,3-Dimethyl-2-[2-(2-pyridinyl)ethenyl]-1H-imidazolium iodide (6.5 g) and 10 ml of methyl iodide are refluxed in 20 ml of acetonitrile for one hour. The resulting solid is filtered off and crystallized from methanol to yield 5.5 g of the title compound, melting point 75° C.

reactant | 1,3-Dimethyl-2-[2-(2-pyridinyl)ethenyl]-1H-imidazolium iodide | 6.5 g | [I-].C[NH+]1C(N(C=C1)C)C=CC1=NC=CC=C1
reactant | methyl iodide | 10 ml | CI | CH3I
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 2-[2-(1,3-Dimethyl-1H-imidazolium-2-yl)ethenyl]-1-methylpyridinium iodide | 5.5 g | [I-].C[NH+]1C(N(C=C1)C)C=CC1=[N+](C=CC=C1)C.[I-] | InChI=1S/C13H18N3.2HI/c1-14-9-5-4-6-12(14)7-8-13-15(2)10-11-16(13)3;;/h4-11,13H,1-3H3;2*1H/q+1;;/p-1
